US05708008
5-(2-methyl-3-furoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 7.0 mg (0.03 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 11.3 mg (0.09 mMol) 2-methyl-3-furoic acid, 0.4 mg (4%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.03 mMol, 7.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 2-methyl-3-furoic acid | 0.09 mMol, 11.3 mg | CC=1OC=CC1C(=O)O | C6H6O3
product | 5-(2-methyl-3-furoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.4 mg, 4% | CC=1OC=CC1C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H23N3O2
